US07943622B2
Step 1. Synthesis of methyl 2-chlorothiazole-4-carboxylate
Thionyl chloride (4.4 mL, 61 mmol) was added dropwise to a solution of 2-chlorothiazole-4-carboxylic acid (2.00 g, 12.2 mmol) in MeOH (40 mL) at 0° C., and the reaction mixture was allowed to warm to rt. After stirring overnight, the reaction mixture was concentrated under reduced pressure. The resulting solid was recrystallized from EtOH/H2O (1:1), yielding 1.40 g (65%) of the title compound as an orange solid. LC-MS: RT=6.17 min, [M+H]+=178.1.

reactant | Thionyl chloride | 61 mmol, 4.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chlorothiazole-4-carboxylic acid | 12.2 mmol, 2.00 g | ClC=1SC=C(N1)C(=O)O | C4H2ClNO2S
reactant | MeOH | 40 mL | CO | CH4O
product | methyl 2-chlorothiazole-4-carboxylate | 1.40 g, 65% | ClC=1SC=C(N1)C(=O)OC | C5H4ClNO2S
